US07205310B2
A suspension of the 5-aminopyrimidine, and one twenty-fifth an equal mass of PtO2, and 5 equivalents equivalents of aqueous acetaldehyde, in ethanol solvent, was shaken under 60 psi hydrogen gas for 24 h. At this time, TLC of an evaporated aliquot of the reaction mixture indicated complete conversion of the 5-(N-ethyl)aminopyrimidine. The Pt catalyst was removed by filtering the reaction mixture through Celite, and the 5-(N,N-diethyl)aminopyrimidine was isolated by evaporation of the ethanol solvent. The crude product was purified by flash chromatography on silica using EtOAc/hexanes.

reactant | 5-aminopyrimidine | NC=1C=NC=NC1 | C4H5N3
reactant | acetaldehyde | C(C)=O | C2H4O
reactant | hydrogen | [H][H] | H2
reactant | 5-(N-ethyl)aminopyrimidine | C(C)NC=1C=NC=NC1 | C6H9N3
solvent | ethanol | C(C)O | C2H6O
catalyst | PtO2 | O=[Pt]=O
product | 5-(N,N-diethyl)aminopyrimidine | C(C)N(CC)C=1C=NC=NC1 | C8H13N3
